US08124606B2
Methyl 6-(2-(2-tert-butoxy-2-oxoethyl)pyrrolidin-1-yl)-5-nitronicotinate (1.79 g, 4.90 mmol) was dissolved in dichloromethane (Volume: 24.49 ml) and to this solution was added triphenyl phosphite (0.015 g, 0.049 mmol), ammonium metavanadate (0.034 g, 0.294 mmol) and Pt/C (5% wt.) (0.191 g, 0.049 mmol). The reaction mixture was hydrogenated at 100 psi at 25° C. for 3 h. The reaction mixture was filtered through a short plug of celite and the plug and precipitate were washed well with dichloromethane (30 mL). The combined filtrates were concentrated in vacuo and dissolved in AcOH (7 mL). This solution was heated to 90° C. for 10 min and concentrated in vacuo. The residue was crystallized with ethyl ether (20 mL) and sonicated until a fine suspension was obtained The precipitate was filtered off and dried in vacuum to afford methyl 6-oxo-6,7,7a,8,9,10-hexahydro-5H-pyrido[3,2-b]pyrrolo[1,2-d][1,4]diazepine-3-carboxylate (0.927 g, 3.55 mmol, 72.4% yield) as a light pink solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.55-1.71 (m, 1H) 1.74-1.89 (m, 1H) 1.89-1.99 (m, 1H) 2.19 (d, J=5.81 Hz, 1H) 2.59 (dd, J=14.78, 1.64 Hz, 1H) 2.77 (dd, J=14.78, 9.98 Hz, 1H) 3.56-3.67 (m, 1H) 3.67-3.76 (m, 1H) 3.78 (s, 3H) 3.99 (td, J=9.85, 5.56 Hz, 1H) 7.64 (d, J=2.02 Hz, 1H) 8.40 (d, J=2.02 Hz, 1H) 9.73 (d, 1H) [M+H] calc'd for C13H15N3O3, 261; found, 261.

reactant | Methyl 6-(2-(2-tert-butoxy-2-oxoethyl)pyrrolidin-1-yl)-5-nitronicotinate | 4.90 mmol, 1.79 g | C(C)(C)(C)OC(CC1N(CCC1)C1=NC=C(C(=O)OC)C=C1[N+](=O)[O-])=O | C17H23N3O6
reactant | triphenyl phosphite | 0.049 mmol, 0.015 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | dichloromethane | 24.49 ml | ClCCl | CH2Cl2
catalyst | ammonium metavanadate | 0.294 mmol, 0.034 g | [NH4+].[O-][V](=O)=O
catalyst | Pt/C | 0.049 mmol, 0.191 g | [Pt] | Pt
product | methyl 6-oxo-6,7,7a,8,9,10-hexahydro-5H-pyrido[3,2-b]pyrrolo[1,2-d][1,4]diazepine-3-carboxylate | 3.55 mmol, 0.927 g, 72.4% yield | O=C1CC2N(C3=C(N1)C=C(C=N3)C(=O)OC)CCC2 | C13H15N3O3
